US09303044B2
2-amino-N-(3-bromo-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide
To a solution of tert-butyl 4-(2-(3-bromo-5-(2-(tert-butoxycarbonylamino)-acetamido)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate (30 mg, 0.045 mmol) in DCM (2 ml) is added TFA (0.5 ml) and the mixture is stirred for 1 h. After the removal of DCM in vacuo, the crude residue is directly purified by preparative HPLC to give the desired product, 2-amino-N-(3-bromo-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide: 1H NMR (400 MHz, DMSO-d6) δ 8.70-8.20 (br.s., 3H), 8.19 (t, J=1.8 Hz, 1H), 8.11 (t, J=1.8 Hz, 1H), 7.83 (t, J=1.8 Hz, 1H), 5.61 (s, 1H), 3.84 (s, 2H), 3.79 (t, J=5.2 Hz, 4H), 3.18 (t, J=5.2 Hz, 4H); LC/MS: tR=2.743 min; HRMS: m/z (M+H+)=464.0495 and 466.0479 (Calculated for C17H19BrN7O2S=464.0499 and 466.0479).

reactant | tert-butyl 4-(2-(3-bromo-5-(2-(tert-butoxycarbonylamino)-acetamido)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate | 0.045 mmol, 30 mg | BrC=1C=C(C=C(C1)NC(CNC(=O)OC(C)(C)C)=O)C1=NN2C(=NC(=CC2=O)N2CCN(CC2)C(=O)OC(C)(C)C)S1 | C27H34BrN7O6S
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-N-(3-bromo-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide | NCC(=O)NC1=CC(=CC(=C1)C1=NN2C(=NC(=CC2=O)N2CCNCC2)S1)Br | C17H18BrN7O2S
